US06900214B2
To a mixture of 6-(3-carbomethoxyphenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide (0.34 g, 1.0 mmol), MeOH (9 mL) and water (3 mL) at 0° C. was added lithium hydroxide (0.84 g, 20.0 mmol). The reaction mixture was stirred for 1 h, acidified to pH 2 with 1 N HCl and extracted with EtOAc. The extract was dried (MgSO4) and concentrated in vacuo to give 6-(3-carboxyphenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide as a colorless solid (0.30 g, 92%): 1H NMR (MeOH-d4, 400 MHz) δ 8.98 (s, 1H), 7.89 (m, 2H), 7.46 (d, 1H, J=7.5 Hz), 7.42 (t, 1H, J=7.5 Hz), 6.12 (s, 1H), 3.16 (m, 2H), 2.06 (s, 3H), 1.03 (t, 3H, J=7.0 Hz).

reactant | 6-(3-carbomethoxyphenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide | 1.0 mmol, 0.34 g | C(C)NC(=O)N1C(NC(=C(C1C1=CC(=CC=C1)C(=O)OC)C#N)C)=O | C17H18N4O4
reactant | MeOH | 9 mL | CO | CH4O
reactant | lithium hydroxide | 20.0 mmol, 0.84 g | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | 3 mL | O | H2O
product | 6-(3-carboxyphenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-1-(2H)-pyrimidinecarboxylic acid, 1-ethyl amide | 0.30 g, 92% | C(C)NC(=O)N1C(NC(=C(C1C1=CC(=CC=C1)C(=O)O)C#N)C)=O | C16H16N4O4
